Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
DC Cardioversion

 
History of Present Illness:
___ with a history of atrial fibrillation s/p cardiversion
___, uprovoked PE on rivaroxaban, and OSA on CPAP,
presenting with dyspnea and fatigue.

The patient reports that for several months, he has been having
increased dyspnea and fatigue, and noted increasing HRs on a
monitor he has at home. First saw Dr. ___ on ___ for
evaluation of persistent atrial fibrillation, and underwent
successful DC cardioversion on ___ to sinus rhythm, after which
his verapamil was stopped and he was started on propefone. Was
also started on furosemide 20 mg after post-DCCV TTE showed an 
EF
of 42%. Symptoms of dyspnea and fatigue resolved for 2 days, but
recurred on ___, and patient presented to ED due to worsening 
of
these symptoms. 

In the ED initial vitals were: T 97.8 HR 119 BP 102/77 RR 18 O2
sat 99% RA. Patient triggered for HRs in 130s, which eventually
responded to IV metop. EKG showed atrial fibrillation with rapid
ventricular response, normal axis, TWI in V5-V6. Labs/studies
notable for: Hgb 10.2 MCV 73, BNP 10267, Cr 1.3, HCOR 21, 
Lactate
1.4, Troponin 0.01, BNP 10267. Cardiology was consulted and
recommended admission for possible repeat cardioversion.
Patient was given: IV metop 5 x4, metop 50 PO, home propefone 
and
rivaroxaban prior to transfer to floor.

On the floor, patient reports feeling somewhat better after
receiving medicines to control his HR in the ED. He endorses
dyspnea and orthopnea, along with occasional dry cough, but
denies chest pain, palpitations, lower extremity edema,
fevers/chills, melena, BRBPr, or other recent changes in his
health prior to presentation. 

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Dyslipidemia  
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
Unprovoked saddle PE ___
OSA on CPAP

 
Social History:
___
Family History:
FAMILY HISTORY:  
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================
VS: T 98.1 BP 112/76 HR 120 RR 22 O2 sat 98%RA   
GENERAL: Well-appearing male, alert and responsive, not in
distress 
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Moist mucus
membranes.
NECK: Supple, no elevated JVD
CARDIAC: Tachycardic, irregular rhythm, no murmurs
LUNGS: Clear bilaterally to auscultation without rales, wheezes,
rhonchi
ABDOMEN: Soft, non-tender, non-distended 
EXTREMITIES: Warm, well-perfused, no lower extremity edema 
PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAM
======================
VITALS: T 98.1 PO BP 95/65 L Sitting HR 72 RR 18 97 RA 
I/Os: 1.88 L/ 2.08 L
WEIGHT:  97 kg

PHYSICAL EXAM: 
GENERAL: Well-appearing male, alert and responsive, not in
distress 
HEENT: NCAT. Sclera anicteric. EOMI. Moist mucus membranes.
NECK: Supple, JVP < 10 at 90 degrees
CARDIAC: RRR, no murmurs/rubs/gallops
LUNGS: Clear bilaterally to auscultation without rales, wheezes,
rhonchi
ABDOMEN: Soft, non-tender, non-distended 
EXTREMITIES: Warm, well-perfused, no lower extremity edema 
PULSES: Distal pulses palpable and symmetric  
 
Pertinent Results:
ADMISSION LABS:
==============
___ 06:10PM BLOOD WBC-9.3 RBC-5.37 Hgb-10.2* Hct-39.0* 
MCV-73* MCH-19.0* MCHC-26.2* RDW-18.0* RDWSD-45.8 Plt ___
___ 06:10PM BLOOD Neuts-64.3 ___ Monos-9.0 Eos-2.9 
Baso-1.1* Im ___ AbsNeut-5.96 AbsLymp-2.07 AbsMono-0.83* 
AbsEos-0.27 AbsBaso-0.10*
___ 06:10PM BLOOD ___ PTT-35.2 ___
___ 06:10PM BLOOD Glucose-125* UreaN-26* Creat-1.3* Na-145 
K-4.6 Cl-109* HCO3-21* AnGap-15
___ 06:10PM BLOOD ___
___ 01:34PM BLOOD Calcium-9.4 Phos-4.3 Mg-2.3
___ 06:10PM BLOOD calTIBC-434 Ferritn-8.3* TRF-334
___ 06:17PM BLOOD Lactate-1.4

DISCHARGE LABS:
==============
___ 06:05AM BLOOD WBC-7.6 RBC-4.91 Hgb-9.3* Hct-34.8* 
MCV-71* MCH-18.9* MCHC-26.7* RDW-17.8* RDWSD-44.2 Plt ___
___ 06:05AM BLOOD ___ PTT-34.8 ___
___ 06:05AM BLOOD Glucose-108* UreaN-38* Creat-1.4* Na-148* 
K-4.1 Cl-110* HCO3-21* AnGap-17*
___ 06:05AM BLOOD Calcium-9.0 Phos-4.7* Mg-2.2

IMAGING RESULTS:
==============
___ CHEST AP:
FINDINGS: 
Exam is limited by motion.  There is no confluent consolidation 
or large
effusion.  Calcific density projects over the anterior left 
third rib,
potentially bone island versus parenchymal calcification.  There 
is moderate
cardiomegaly.  There is no evidence of pulmonary edema.  There 
is no acute
fracture.
 
IMPRESSION: 
Cardiomegaly without definite acute cardiopulmonary process 
based on this
limited exam.

___ ECHOCARDIOGRAM:
The left atrium is moderately dilated. The right atrium is 
moderately dilated. Left ventricular wall thicknesses and cavity 
size are normal. There is mild global left ventricular 
hypokinesis. Quantitative (biplane) LVEF = 42 %. Tissue Doppler 
imaging suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). Right ventricular chamber size is normal with 
mild global free wall hypokinesis. The aortic root is mildly 
dilated at the sinus level. The ascending aorta is mildly 
dilated. The aortic arch is mildly dilated. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. Trace aortic regurgitation is seen. The mitral leaflets 
are mildly thickened. Mild to moderate (___) mitral 
regurgitation is seen. There is at least moderate pulmonary 
artery systolic hypertension. There is no pericardial effusion. 

IMPRESSION: Normal biventricular cavity sizes with mild global 
biventricular hypokinesis. Mildly dilated thoracic aorta. Mild 
to moderate mitral and tricuspid regurgitation. At least 
moderate pulmonary hypertension. 

 
Brief Hospital Course:
___ with a history of atrial fibrillation s/p cardiversion 
___, unprovoked PE on rivaroxaban, and OSA on CPAP, 
presenting with dyspnea and fatigue, found to have persistent 
atrial fibrillation after cardioversion, now s/p repeat DC CV 
___ with successful conversion to NSR.

#PUMP: EF 42%
#RHYTHM: NSR
#CORONARIES: Unknown

ACTIVE ISSUES:
=================================
#Atrial fibrillation with rapid ventricular response (s/p DC 
CV); Patient has history of paroxysmal atrial fibrillation. 
Since ___, has had more frequent recurrences of atrial 
fibrillation and became progressively more dyspneic. Saw Dr. 
___ on ___, had successful cardioversion on 
___, then was initiated on propafenone. Post-cardioversion 
echo showed a slightly reduced EF, and patient was discharged on 
lasix 20 PO as well. One day after cardioversion he had 
recurrence of symptoms and was admitted for repeat 
cardioversion. He was triggered for AFib with RVR in the ED upon 
admission and had good response to metoprolol. It was thought 
that the patient remained hypervolemic after his cardioversion 
which may have triggered him to go back into AFib. He was 
diuresed with IV Lasix, then had successful cardioversion on 
___. He was continued on propafenone and discharged on 
metoprolol succinate 100 daily. He is anticoagulated with 
xarelto (CHADSVASC 1) which he takes for a history of unprovoked 
pulmonary embolism. 

#Heart Failure with Reduced Ejection Fraction: TTE recently 
showing mildly depressed EF, possibly secondary to persistently 
poorly-controlled rates/tachycardia-induced cardiomyopathy in 
the setting of AFib w/ RVR. BNP 10267 on admission. He was 
diuresed with Lasix IV 20 mg one to two times a day. He was 
discharged on his prior Lasix dose 20 mg PO daily. His discharge 
(dry) weight was 96.8 kg.

___: Cr 1.3 from 0.9 on ___ stable at 1.4 today; thought to 
be possibly over-diuresis, FENa <1%, but had signs/symptoms of 
some hypervolemia. Cr did not worsen with Lasix IV. Will require 
follow up labs to check creatinine. 

#Iron Deficiency Microcytic anemia: Hgb 10.2 on admission,
unclear baseline, no evident source of bleeding. Patient's last 
colonoscopy ___ years ago, noted black tarry stools this past 
___ with improvement. On anticoagulation with xarelto for 
history of unprovoked PE. Ferritin 8. Should follow up with PCP 
soon and check hemoglobin and likely have repeat colonoscopy. 

>30 minutes spent on discharge planning/coordination of care

TRANSITIONAL ISSUES
===================
[ ] Check hemoglobin within 1 week to make sure it is stable. 
Consider GI bleed given microcytic anemia, iron deficiency, on 
xarelto. Consider colonoscopy for evaluation.
[ ] Check BMP within 1 week for follow up (scripts provided).
[ ] Weigh patient and evaluate volume status (discharged on 
Lasix 20 mg PO daily)
[ ] Ensure patient follows up with Dr. ___ on ___.
[ ] Ensure patient compliance on Xarelto, Propafenone, Lasix.

# CODE STATUS: Full
# CONTACT: Wife, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Furosemide 20 mg PO DAILY 
3. Ipratropium-Albuterol Inhalation Spray 1 INH ___ Q6H:PRN 
dyspnea 
4. Metoprolol Succinate XL 200 mg PO DAILY 
5. Potassium Chloride 20 mEq PO DAILY 
6. Propafenone HCl 150 mg PO TID 
7. Rivaroxaban 20 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Magnesium Oxide 400 mg PO DAILY 

 
Discharge Medications:
1.  Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 40 mg PO QPM  
4.  Furosemide 20 mg PO DAILY  
5.  Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H:PRN 
dyspnea  
6.  Magnesium Oxide 400 mg PO DAILY  
7.  Potassium Chloride 20 mEq PO DAILY  
8.  Propafenone HCl 150 mg PO TID  
9.  Rivaroxaban 20 mg PO DAILY  
10.Outpatient Lab Work
ICD ___
Please check:
Chem 7 (Na, K, Cl, Bicarbonate, BUN, Cr)
CBC (hemoglobin)

Contact information: 
___ MD, PHD
Fax #: ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
ATRIAL FIBRILLATION WITH RAPID VENTRICULAR RATE (STATUS POST 
CARDIOVERSION)
HEART FAILURE WITH REDUCED SYSTOLIC FUNCTION

SECONDARY DIAGNOSIS 
===================
ACUTE KIDNEY INJURY
IRON DEFICIENCY ANEMIA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___.

Why was I admitted to the hospital?  
-You were admitted because you had atrial fibrillation and had a 
planned cardioversion to shock your heart into a normal rhythm.

What happened while I was in the hospital?  
-You were continued on your medications (propafenone, xarelto)
-You underwent a procedure and your heart return into a normal 
rhythm
-You were given lasix (furosemide) to help you get rid of free 
fluid that you were accumulating.

What should I do after leaving the hospital?  
-Please take your medications as listed in discharge summary and 
follow up with Dr. ___ as listed. 
-Please weigh yourself everyday. If your weight increases by 
more than 2 pounds in one day or 5 pounds over one week, please 
call your primary doctor's office or Dr. ___ 
below and take an extra dose of your Lasix. Your weight at the 
time of leaving this hospital was 213 pounds. 
-If you have recurrence of your symptoms, please call Dr. 
___ (___).   

Thank you for allowing us to be involved in your care, we wish 
you all the best.

Your ___ Cardiology Team  

 
Followup Instructions:
___